US06727249B2
(1R*,2R*,5R*)-2-{1-(R*)-[3,5-bis(trifluoromethyl)phenyl]ethyloxy}-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,2R*,5R*)-8-Benzyl-2-[3,5-bis(trifluoromethyl)benzoyloxy]-1-phenyl-8-azabicyclo[3.2.1]octane (Description 9; 821 mg, 1.54 mmol) was treated with a solution of dimethylbis(cyclopentadienyl)titanium in toluene (0.2M, 30 ml). The reaction mixture was stirred in the dark at 82° C. for 2.5 hours. The mixture was cooled to 40° C., than solid Na2CO3 (2 g) added followed by a mixture of methanol-water (9:1, 20 ml). The mixture was stirred for 1 hour at 40° C. and filtered through a pad of Celite™. The filtrate was dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:ethyl acetate 0-35% containing 0.5% triethylamine) to give a 10:1 mixture of (1R*,2R*,5S*,6R*)-2-{1-[3,5-bis(trifluoromethyl)phenyl]ethenyloxy}-1-phenyl-8-azabicyclo[3.2.1]octane and (1R*,2R*,5S*,6R*)-8-benzyl-2-[3,5-bis(trifluoromethyl)benzoyloxy]-1-phenyl-8-azabicyclo[3.2.1]octane. 2/5 of this crude mixture was treated with I-propanol (8 ml), ethyl acetate (8 ml) and 10% palladium on charcoal (340 mg) and stirred under hydrogen atmosphere (1 atm) at room temperature for 12 hours. The mixture was filtered through a pad of Celite™ and concentrated to give a 7:1 (S*:R*) mixture of the title compounds. The isomers were separated by preparative TLC (dichloromethane:methanol) and converted into hydrochloride salts.

reactant | (1R*,2R*,5R*)-8-Benzyl-2-[3,5-bis(trifluoromethyl)benzoyloxy]-1-phenyl-8-azabicyclo[3.2.1]octane | 1.54 mmol, 821 mg | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1CC2)OC(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C2=CC=CC=C2 | C29H25F6NO2
reactant | Na2CO3 | 2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol water | 20 ml | CO.O
reactant | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 0.2M, 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on charcoal | 340 mg | [Pd] | Pd
catalyst | dimethylbis(cyclopentadienyl)titanium | C[Ti](C1C=CC=C1)(C1C=CC=C1)C
product | (1R*,2R*,5R*)-2-{1-(R*)-[3,5-bis(trifluoromethyl)phenyl]ethyloxy}-1-phenyl-8-azabicyclo[3.2.1]octane | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@H]1[C@@]2(CC[C@H](CC1)N2)C2=CC=CC=C2)(F)F | C23H23F6NO
